US04471116
200 ml of prewashed (water and methanol) Dowex 50W-8X ion exchange resin (H30 form) was added to a solution of 264 g crude (2S)-3-[N-mesyl-(1-methylethyl)amino]-1,2-propanediol acetonide in methanol (1 liter) and water (325 ml). The mixture was stirred under reflux for 90 minutes. The cooled mixture was filtered and the filtrate was concentrated in vacuo. The residue was evaporated several times from benzene-ethanol mixtures to remove the last traces of water. The resulting solid was triturated with 2.5 L ether to give 159.7 g of (2S)-3-[N-mesyl-(1-methylethyl)amino]-1,2-propanediol, mp 67°-70°. Concentration of the ether furnished an additional 27.7 g of (2S)-3-[N-mesyl-(1-methylethyl)amino]-1,2-propanediol, mp 62°-66°. Crystallization from ethyl acetate-hexane furnished the analytically pure material, mp 73°-74°; [α]D25 -15.94° (c, 1.0, H2O).

reactant | (2S)-3-[N-mesyl-(1-methylethyl)amino]-1,2-propanediol acetonide | 264 g | [CH2-]C(=O)C.S(=O)(=O)(C)N(C[C@@H](CO)O)C(C)C
solvent | methanol | 1 liter | CO | CH4O
solvent | water | 325 ml | O | H2O
product | (2S)-3-[N-mesyl-(1-methylethyl)amino]-1,2-propanediol | 159.7 g | S(=O)(=O)(C)N(C[C@@H](CO)O)C(C)C | C7H17NO4S
